US05763437
To a suspension of sodium hydride (0.11 g of a 60% dispersion in mineral oil) in N,N-dimethylformamide (20 ml) was added gradually (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1H-1,4-benzodiazepin-2-one (1.00 g) under nitrogen atmosphere at cooling in an ice-bath. The mixture was stirred under the same condition for 0.5 hour and at ambient temperature for 1 hour. The mixture was cooled in an ice-bath and a solution of 2-bromomethyl-benzothiazole (0.63 g) in N,N-dimethylformamide (5 ml) was added dropwise thereto. The mixture was stirred for 1 hour at the same temperature and at ambient temperature overnight. To the reaction mixture was added acetic acid (0.5 g) under cooling in an ice-bath. The resultant mixture was poured into a mixture of ethyl acetate (100 ml) and water (50 ml) under stirring. The mixture was adjusted to pH 7.5-8.0 with sodium bicarbonate. The organic layer was separated. The aqueous layer was extracted with ethyl acetate (50 ml). The combined organic layer was washed with a brine (50 ml), dried over magnesium sulfate, filtered and concentrated in vacuo to afford (3RS)-1-(benzothiazol-2 -yl)methyl-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1H-1,4-benzodiazepin-2-one. This product was allowed to use in a next reaction step without further purification.

reactant | sodium hydride | [H-].[Na+]
reactant | (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1H-1,4-benzodiazepin-2-one | 1.00 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H14FN3O3
reactant | 2-bromomethyl-benzothiazole | 0.63 g | BrCC=1SC2=C(N1)C=CC=C2 | C8H6BrNS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.5 g | C(C)(=O)O | C2H4O2
product | (3RS)-1-(benzothiazol-2 -yl)methyl-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1H-1,4-benzodiazepin-2-one | S1C(=NC2=C1C=CC=C2)CN2C(C(N=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C31H19FN4O3S
